### PR TITLE
Drop the probability-measure hypothesis from prob_ge_exp_neg_entropy

### PR DESCRIPTION
**Pull request by Chessing234**
## Summary
- `prob_ge_exp_neg_entropy` never uses `μ univ = 1`; it only needs a point of `S` (for the zero-measure case) and already handled `μ = 0`.
- Replace `[IsProbabilityMeasure μ]` with `[Nonempty S]`. The primed probability-measure wrapper synthesizes that instance from `μ` and is otherwise unchanged.

## Test plan
- Could not `lake build` locally (disk is full). CI is the compiler check.
- Call sites in `Main` / `TorsionEndgame` / `ImprovedPFR` still go through the primed lemma.

Made with [Cursor](https://cursor.com)

### CODE REVIEW

File: PFR/ForMathlib/Entropy/Basic.lean [hunk 1]
```diff
@@ -281,12 +278,18 @@ lemma prob_ge_exp_neg_entropy [MeasurableSingletonClass S] (X : Ω → S) (μ :
   let g_lhs s := pdf s * neg_log_pdf s_max
   let g_rhs s := -pdf s * log (pdf s)
   suffices ∑ s ∈ A, g_lhs s ≤ ∑ s ∈ A, g_rhs s by
-    convert! this
-    rw [entropy_eq_sum_finset hA]
-    congr with s
-    simp only [negMulLog, neg_mul, ENNReal.toReal_mul, neg_inj, g_rhs, pdf, pdf_nn]
-    simp at h_norm
-    simp [h_norm, μs, μS, Measure.real]
+    have hA0 : (μ.map X) (A : Set S)ᶜ = 0 := ae_iff.mp hA
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/Basic.lean]:
```suggestion
    have hA0 : μ.map X (A : Set S)ᶜ = 0 := ae_iff.mp hA
```
and below

File: PFR/ForMathlib/Entropy/Basic.lean [hunk 2]
```diff
@@ -281,12 +278,18 @@ lemma prob_ge_exp_neg_entropy [MeasurableSingletonClass S] (X : Ω → S) (μ :
...
+      rw [entropy_def, measureEntropy_eq_sum hA0]
+      refine Finset.sum_congr rfl fun s _ => ?_
+      have hsmul : (((μ.map X) Set.univ)⁻¹ • μ.map X).real {s} = pdf s := by
+        have huniv : (μ.map X) Set.univ = norm := by
+          rw [Measure.map_apply hX MeasurableSet.univ]
+          exact h_norm.symm
+        simp [pdf, pdf_nn, μs, μS, Measure.real, huniv]
+      simp [g_rhs, hsmul, negMulLog]
+    rw [hEnt]
+    exact this
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/Basic.lean]: Something like this?
```suggestion
    convert this
    rw [entropy_def, measureEntropy_eq_sum hA0]
    refine Finset.sum_congr rfl fun s _ => ?_
    have hsmul : (((μ.map X) Set.univ)⁻¹ • μ.map X).real {s} = pdf s := by
      have huniv : (μ.map X) Set.univ = norm := by
        rw [Measure.map_apply hX MeasurableSet.univ]
        exact h_norm.symm
      simp [pdf, pdf_nn, μs, μS, Measure.real, huniv]
    simp [g_rhs, hsmul, negMulLog]
```
